US04485104
N-Methyl [[[1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]thio]acetamide
A solution of ethyl [[[1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]thio]acetate (0.4 g) in ethanolic methylamine (33%, 20 ml) under nitrogen, was heated under reflux for 30 h, cooled, evaporated in vacuo, the residue dissolved in 2N hydrochloric acid (20 ml), and washed with ethyl acetate. The acidic layer was basified with potassium carbonate extracted with ethyl acetate and the extract was dried and evaporated to give an oil (0.28 g) which was chromatographed using System E as eluent to give the title compound (0.13 g) as an oil.

reactant | ethyl [[[1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]thio]acetate | 0.4 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CSCC(=O)OCC | C23H35N5O3S
reactant | methylamine | 20 ml | CN | CH5N
product | N-Methyl [[[1-methyl-5-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]amino]-1H-1,2,4-triazol-3-yl]methyl]thio]acetamide | 0.28 g | CNC(CSCC1=NN(C(=N1)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C)=O | C22H34N6O2S
